US04448962
3.2 g (10 millimole) of 1-ethyl-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid was dissolved in 30 ml of acetic acid, and 1.4 g (20 millimole) of sodium nitrite was added slowly thereto at room temperature under stirring. After stirring for 30 minutes at room temperature, 50 ml of water was added. The precipitated crystals were collected by filtration, washed successively with water, ethanol and dichloromethane and dried. 3.5 g (quantitative) of 1-ethyl-6-fluoro-7-(4-nitroso-1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid was obtained as grayish colorless powders.

reactant | 1-ethyl-6-fluoro-7-(1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 10 millimole, 3.2 g | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C16H18FN3O3
reactant | sodium nitrite | 20 millimole, 1.4 g | N(=O)[O-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 1-ethyl-6-fluoro-7-(4-nitroso-1-piperazinyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 3.5 g | C(C)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)N=O)F)=O)C(=O)O | C16H17FN4O4
